US07005431B2
f) 3′-[3-(1-Fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]-4,2′,6′-trifluorobiphenyl-2-carbonitrile
3′-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-4,2′,6′-trifluorobiphenyl-2-carbonitrile was reacted with 7-bromo-3-(1-fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazine by a similar procedure to that described in Example 2, step e, to give the title compound in 38% yield as a yellow solid: mp 166-169° C. (EtOAc-isohexane); 1H NMR (360 MHz, CDCl3) δ 1.85 (6H, d, J 22.1); 7.25 (1H, td, J 8.6, 1.4), 7.46 (1H, td, J 8.6, 2.7), 7.54–7.59 (2H, m), 8.30 (1H, dt, J 8.3, 6.2), 8.35 (1H, d, J 3.0), 8.80 (1H, d, J 1.2); MS (ES+) m/z 412 [M+H]+. Anal. Found: C, 61.34; H, 3.29; N, 16.72%. Required for C21H13F4N5.0.05C4H8O2: C, 61.24; H, 3.25; N, 16.84%.

reactant | 3′-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-4,2′,6′-trifluorobiphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C(=C(C(=CC1)F)C=1C(=CC(=CC1)F)C#N)F)C | C19H17BF3NO2
reactant | 7-bromo-3-(1-fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazine | BrC1=CN=C2N1N=CC(=N2)C(C)(C)F | C8H8BrFN4
product | 3′-[3-(1-Fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]-4,2′,6′-trifluorobiphenyl-2-carbonitrile | 38% yield | FC(C)(C)C1=NC=2N(N=C1)C(=CN2)C=2C(=C(C(=CC2)F)C=2C(=CC(=CC2)F)C#N)F | C21H13F4N5
